US09216973B2
To a solution of 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid tert-butyl ester (preparation of similar compounds described in, for example, EP 1,731,512) (2.83 g) in tetrahydrofuran (25 ml) that was stirred at −78° C. for 5 minutes under argon, was slowly added lithium bis(trimethyl-silyl)amide (“LiHMDS”) (1M in hexane) (6.9 ml). After 3 hours at −78° C., a cold (−20° C.) solution of 2-benzenesulfonyl-3-phenyl-oxaziridine (commercially available) (2.34 g) in tetrahydrofuran (10 ml) was added quickly. The temperature was kept below −65° C. for 4 hours and 30 minutes. The reaction was quenched by addition of aqueous ammonium chloride (saturated) at −78° C. tent-Butyl methyl ether (“TBME”) was added and the phases were separated. The organic layer was washed successively with ammonium chloride and brine, dried over magnesium sulfate and concentrated. The residue was purified by column chromatography on silica gel (eluent: heptane/TBME 9:1) to give 4-[5-(3,5-dichloro-phenyl)-4-hydroxy-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid tert-butyl ester (738 mg) as a white solid.

reactant | 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid tert-butyl ester | 2.83 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C22H20Cl2F3NO3
reactant | lithium bis(trimethyl-silyl)amide | 1M, 6.9 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-benzenesulfonyl-3-phenyl-oxaziridine | C1(=CC=CC=C1)S(=O)(=O)N1OC1C1=CC=CC=C1 | C13H11NO3S
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-[5-(3,5-dichloro-phenyl)-4-hydroxy-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid tert-butyl ester | 738 mg | C(C)(C)(C)OC(C1=C(C=C(C=C1)C1=NOC(C1O)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C22H20Cl2F3NO4
